US04604390
2-[[2-[[2-[2-(Diethylamino)ethyl]-9-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]amino]ethyl]amino]ethanol
A mixture of 8.0 g (0.017 mol) of 3-[2-[[2[2-(diethylamino)ethyl]-9-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazol-5-yl]amino]ethyl]-2-oxazolidinone, 70 ml of 2N KOH in MeOH, 35 ml of THF, and 35 ml of H2O was treated and the product isolated as described in Example 56 to furnish 6.4 g of the product, mp 111°-115° C.

reactant | 3-[2-[[2[2-(diethylamino)ethyl]-9-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazol-5-yl]amino]ethyl]-2-oxazolidinone | 0.017 mol, 8.0 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN1C(OCC1)=O)SC1=C2C=C(C=C1)OC)CC | C25H31N5O3S
reactant | KOH | 2N, 70 ml | [OH-].[K+]
reactant | H2O | 35 ml | O | H2O
solvent | MeOH | CO | CH4O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-[[2-[[2-[2-(Diethylamino)ethyl]-9-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]amino]ethyl]amino]ethanol | 6.4 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCNCCO)SC1=C2C=C(C=C1)OC)CC | C24H33N5O2S
